US06797718B2
Benzenethiol (2.42 mL, 23.6 mmol) was added dropwise to a suspension of sodium hydride (0.944 g of 60%, 23.6 mmol) in anhydrous N,N-dimethylformamide (50 mL) and stirred until a clear solution was obtained. A solution of 1-(5-chloropentyl)-2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridine (6.5 g, 18.2 mmol) in anhydrous N,N-dimethylformamide (50 mL) was added dropwise. The reaction mixture was stirred at ambient temperature for 2 hours, then it was quenched with water and extracted with ethyl acetate (300 mL). The extract was washed with water (5×75 mL), dried over magnesium sulfate and then concentrated under reduced pressure to provide 7.20 g of 2,6,7-trimethyl-4-phenoxy-1-[5-(phenylthio)pentyl]-1H-imidazo[4,5-c]pyridine.

reactant | Benzenethiol | 23.6 mmol, 2.42 mL | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydride | 23.6 mmol, 0.944 g | [H-].[Na+]
reactant | 1-(5-chloropentyl)-2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridine | 18.2 mmol, 6.5 g | ClCCCCCN1C(=NC=2C(=NC(=C(C21)C)C)OC2=CC=CC=C2)C | C20H24ClN3O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2,6,7-trimethyl-4-phenoxy-1-[5-(phenylthio)pentyl]-1H-imidazo[4,5-c]pyridine | 7.20 g | CC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCCCCSC1=CC=CC=C1 | C26H29N3OS
